US05348561
4-methylmercaptobenzenesulphonic acid;
2-methoxybenzene sulphonic acid: 4-phenoxybenzenesulphonic acid;

reactant | 2-methoxybenzene sulphonic acid | COC1=C(C=CC=C1)S(=O)(=O)O | C7H8O4S
reactant | 4-phenoxybenzenesulphonic acid | O(C1=CC=CC=C1)C1=CC=C(C=C1)S(=O)(=O)O | C12H10O4S
product | 4-methylmercaptobenzenesulphonic acid | CSC1=CC=C(C=C1)S(=O)(=O)O | C7H8O3S2
